US07683176B2
A 25 mL scintillation vial was charged with N-isopropyl-2-methoxyacetamide (132 mg, 1.0 mmol), POCl3 (0.19 mL, 2.0 mmol), 2,6-lutidine (0.30 mL, 2.4 M), and CH3CN (10 mL). The vial was sealed, heated to 40° C., and stirred for four hours. The volatiles were then evacuated in vacuo and to the residue was added 4-tert-butyl-N-(6-chloro-2-hydrazinocarbonyl-pyridin-3-yl)-benzenesulfonamide (193 mg, 0.5 mmol), DIPEA (2.0 mL), and dioxane (2.0 mL). The vial was sealed, heated to 130° C., and stirred for two hours. The volatiles was then evacuated in vacuo, and the residue was purified via automated silica gel chromatography and then preparative HPLC to afford 4-tert-butyl-N-[6-chloro-2-(4-isopropyl-5-methoxymethyl-4H-[1,2,4]triazol-3-yl)-pyridin-3-yl]-benzenesulfonamide as a white powder: MS (ES) M+H expected 478.2, found 478.1.

reactant | N-isopropyl-2-methoxyacetamide | 1.0 mmol, 132 mg | C(C)(C)NC(COC)=O | C6H13NO2
reactant | POCl3 | 2.0 mmol, 0.19 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | 2,6-lutidine | 2.4 M, 0.30 mL | N1=C(C=CC=C1C)C | C7H9N
reactant | 4-tert-butyl-N-(6-chloro-2-hydrazinocarbonyl-pyridin-3-yl)-benzenesulfonamide | 0.5 mmol, 193 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC=1C(=NC(=CC1)Cl)C(=O)NN | C16H19ClN4O3S
reactant | DIPEA | 2.0 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | dioxane | 2.0 mL | O1CCOCC1 | C4H8O2
solvent | CH3CN | 10 mL | CC#N | C2H3N
product | 4-tert-butyl-N-[6-chloro-2-(4-isopropyl-5-methoxymethyl-4H-[1,2,4]triazol-3-yl)-pyridin-3-yl]-benzenesulfonamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC=1C(=NC(=CC1)Cl)C1=NN=C(N1C(C)C)COC | C22H28ClN5O3S
